US05192781
An equimolar mixture (18 mmol) of 2-chloro-1-(4-nitrophenyl)octan-3-one and thiourea is heated at 60° C. for 6 hours. The reaction mixture is taken up in methylene chloride and filtered. After concentration, the filtrate is washed with water which has been rendered basic, and extracted with chloroform to give 3 g of 2-amino-5-(4-nitrobenzyl)-4-pentylthiazole in the form of a brown oil, which is used as such for the next step.

reactant | 2-chloro-1-(4-nitrophenyl)octan-3-one | 18 mmol | ClC(CC1=CC=C(C=C1)[N+](=O)[O-])C(CCCCC)=O | C14H18ClNO3
reactant | thiourea | NC(=S)N | CH4N2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-amino-5-(4-nitrobenzyl)-4-pentylthiazole | 3 g | NC=1SC(=C(N1)CCCCC)CC1=CC=C(C=C1)[N+](=O)[O-] | C15H19N3O2S
